US07501411B2
This compound may be prepared using methods as described for Compound 86, step 2 using 4-bromo-5-methyl-1H-pyrazole (3 g, 18.6 mmol), bis(pinacolato)diboron (8.52 g, 33.5 mmol), PdCl2dppf (913 mg, 1.118 mmol) and KOAc (5.49 mg, 55.9 mmol) in dimethylsulfoxide (30 mL). The reaction mixture is purified by silica gel column chromatography eluting with 7:3 followed by 1:1 petroleum ether:ethyl acetate to afford 5-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (3.87 g, 100%).

reactant | 4-bromo-5-methyl-1H-pyrazole | 18.6 mmol, 3 g | BrC=1C=NNC1C | C4H5BrN2
reactant | bis(pinacolato)diboron | 33.5 mmol, 8.52 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 55.9 mmol, 5.49 mg | CC(=O)[O-].[K+]
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 5-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 3.87 g, 100% | CC1=C(C=NN1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
